US06329405B1
(96b) 3-{[(R)-1-(3,4-Difluorophenyl)ethylamino]-(4-fluorophenyl)methyl}-phenylamine
Following a similar reaction, separation and purification procedure to that described in Example (59b), 18.44 g of N-[(R)-1-(3,4-difluorophenyl)ethyl]-N-[(4-fluorophenyl)-(3-nitrophenyl)methyl]amine, 22.69 g of nickel chloride hexahydrate, 7.22 g of sodium borohydride and 150 ml of methanol were reacted, to obtain 1.27 g of isomer A and 2.79 g of isomer B of the title compound, respectively, each as a pale yellow oil.

reactant | N-[(R)-1-(3,4-difluorophenyl)ethyl]-N-[(4-fluorophenyl)-(3-nitrophenyl)methyl]amine | 18.44 g | FC=1C=C(C=CC1F)[C@@H](C)NC(C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)F | C21H17F3N2O2
reactant | sodium borohydride | 7.22 g | [BH4-].[Na+]
catalyst | nickel chloride hexahydrate | 22.69 g | O.O.O.O.O.O.[Ni](Cl)Cl
solvent | methanol | 150 ml | CO | CH4O
product | 3-{[(R)-1-(3,4-Difluorophenyl)ethylamino]-(4-fluorophenyl)methyl}-phenylamine | FC=1C=C(C=CC1F)[C@@H](C)NC(C=1C=C(C=CC1)N)C1=CC=C(C=C1)F | C21H19F3N2
